US05587379
A solution of 2.0 grams (0.005 mole) of 2,4-diamino-5-[4-(4-trifluoromethylsulfonyloxyphenyl)pentyl]-6-methylpyrimidine (prepared in Step K of this Example), 2.4 grams (0.01 5 mole) of 3,5-difluorophenylboronic acid, and 0.3 gram (catalyst) of tetrakis(triphenylphosphine)palladium(0) in 90 mL of N,N-dimethylformamide was stirred, and 3.5 grams (0.025 mole) of potassium carbonate was added in one portion. Upon completion of addition, the reaction mixture was warmed slowly to 115 ° C. where it was maintained for about 40 hours. The reaction mixture was cooled and poured into 250 mL of water. The mixture was then extracted with three 150 mL portions of ethyl acetate. The combined extracts were washed with three 150 mL portions of an aqueous 10% lithium chloride solution and dried with sodium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure to a residue. The residue was subjected to column chromatography on neutral alumina (deactivated with 6% wt/wt water), using 2°-10% methanol in methylene chloride as the eluants. The product-containing fractions were combined and concentrated under reduced pressure, yielding about 0.5 gram of 2,4-diamino-5-[4-[4-(3,5-difluorophenyl)phenyl]pentyl]-6-methylpyrimidine, mp 129°-134° C. The NMR spectrum was consistent with the proposed structure.

reactant | 2,4-diamino-5-[4-(4-trifluoromethylsulfonyloxyphenyl)pentyl]-6-methylpyrimidine | 0.005 mole, 2.0 grams | NC1=NC(=C(C(=N1)N)CCCC(C)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C17H21F3N4O3S
reactant | 3,5-difluorophenylboronic acid | 5 mole, 2.4 grams | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | potassium carbonate | 0.025 mole, 3.5 grams | C([O-])([O-])=O.[K+].[K+]
reactant | water | 250 mL | O | H2O
solvent | N,N-dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.3 gram | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,4-diamino-5-[4-[4-(3,5-difluorophenyl)phenyl]pentyl]-6-methylpyrimidine | about 0.5 gram | NC1=NC(=C(C(=N1)N)CCCC(C)C1=CC=C(C=C1)C1=CC(=CC(=C1)F)F)C | C22H24F2N4
